US08357634B2
A solution of 2,4-dichloro-benzaldehyde O-methyl-oxime (1.0 g, 4.9 mmol), prepared as described in example P10a, in acetic acid (7.1 ml) was treated at 10° C. with sodium cyanoborohydride (615 mg, 9.8 mmol) added in small portions over 10 minutes and the resulting solution was stirred at 24° C. for 7 hours. The solvent was evaporated under reduced pressure (co-evaporation with toluene twice) and the residue was slurried with water. The aqueous phase was extracted with dichloromethane (2×20 ml), washed with brine and dried over anhydrous Na2SO4. After removal of the solvent, the residue (1510 mg) was purified by flash chromatography over silica gel (eluent: c-hexane/ethyl acetate 9:1). 690 mg (68.0% of theory) of N-(2,4-dichloro-benzyl)-O-methyl-hydroxylamine was obtained in form of a clear liquid.

reactant | 2,4-dichloro-benzaldehyde O-methyl-oxime | 4.9 mmol, 1.0 g | CON=CC1=C(C=C(C=C1)Cl)Cl | C8H7Cl2NO
reactant | sodium cyanoborohydride | 9.8 mmol, 615 mg | C(#N)[BH3-].[Na+]
solvent | acetic acid | 7.1 ml | C(C)(=O)O | C2H4O2
product | N-(2,4-dichloro-benzyl)-O-methyl-hydroxylamine | 690 mg, 68.0% | ClC1=C(CNOC)C=CC(=C1)Cl | C8H9Cl2NO
